US09388189B2
(S)-3-Hydroxy-N-methyl-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzenesulfonamide
(S)-3-Methoxy-N-methyl-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzenesulfonamide (45 mg, 0.06 mmol) was treated with boron tribromide (1M in dichloromethane, 2.0 mL, 2.00 mmol) in dichloromethane (1 mL) and then with a solution of ammonia (7N in methanol, 5.0 mL, 35.0 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water methanol/acetonitrile 1:1) to obtain 8 mg (22% yield) of the title compound.

reactant | (S)-3-Methoxy-N-methyl-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzenesulfonamide | 0.06 mmol, 45 mg | COC=1C=C(C=CC1C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)S(=O)(=O)NC | C35H42N8O5SSi
reactant | boron tribromide | 2.00 mmol, 1M, 2.0 mL | B(Br)(Br)Br | BBr3
reactant | ammonia | 35.0 mmol, 7N, 5.0 mL | N | H3N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (S)-3-Hydroxy-N-methyl-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzenesulfonamide | 8 mg, 22% yield | OC=1C=C(C=CC1C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)S(=O)(=O)NC | C28H26N8O4S
